US05017212
3,6-Dimethylpyrazolo[5,1-b]thiazole
A mixture of 25.0 g of 7-acetyl-3,6-dimethylpyrazolo [5,1-b]thiazole and 200 ml of concentrated hydrochloric acid is refluxed for 10 hours. The reaction solution is concentrated, and the residue is neutralized with 10% sodium hydroxide and then extracted with chloroform. The extract is washed with water, dried over anhydrous sodium sulfate and distilled to remove chloroform. The residue is purified by silica gel chromatography (eluent: dichloromethanemethanol) to give 16.3 g of the oily title compound.

reactant | 7-acetyl-3,6-dimethylpyrazolo [5,1-b]thiazole | 25.0 g | C(C)(=O)C=1C(=NN2C1SC=C2C)C | C9H10N2OS
solvent | hydrochloric acid | 200 ml | Cl | ClH
product | 3,6-Dimethylpyrazolo[5,1-b]thiazole | 16.3 g | CC=1N2C(SC1)=CC(=N2)C | C7H8N2S
